US03956323
A total of 17.8 g of nicotinoyl chloride hydrochloride was dissolved in 150 ml of pyridine and 50 ml of dimethylformamide and the solution treated slowly with stirring at a temperature not over 15° with 22.2 g of benzyl-(R)-α-hydroxy-isovalerate (prepared from (R)-2-hydroxy-isovaleric acid and benzyl chloride in a manner analogous to that described for the preparation of the corresponding compound in Example 1). After stirring for two hours at room temperature, the mixture was evaporated under reduced pressure. The residue was taken up in ether, washed three times with water and extracted six times with ice-cold 3-N hydrochloric acid. The hydrochloride phases were immediately allowed to run into saturated sodium bicarbonate solution and the base which was thus released was extracted three times with ether. After washing and drying, it was evaporated under reduced pressure and there were obtained 27 g of a resin which contained benzyl-(R)-2-(nicotinoyloxy)-isocaproate. The resin was then hydrogenated in 200 ml. of ethanol with 2 g. of 5% palladium-on-charcoal until 2 equivalents of hydrogen had been taken up. After filtration and evaporation, the residue was taken up in 10% potassium bicarbonate, washed twice with ether and adjusted to pH 3 with citric acid. After extraction with ether, washing, drying and evaporation of the extract, there was obtained a crystallizing oil. Recrystallization from ethyl acetate/petroleum ether yielded 14 g of (R)-2-(nicotinoyloxy)isocaproic acid; mp 101°-103°; [α]D25 =+18.8° (c = 1.0 in methanol).

reactant | benzyl-(R)-2-(nicotinoyloxy)-isocaproate | C(C1=CC=CC=C1)OC([C@@H](CC(C)C)OC(C1=CN=CC=C1)=O)=O | C19H21NO4
reactant | hydrogen | 2 equivalents | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | (R)-2-(nicotinoyloxy)isocaproic acid | 14 g | C(C1=CN=CC=C1)(=O)O[C@@H](C(=O)O)CC(C)C | C12H15NO4
